US05990108
A mixture of 1.45 g of ethyl (E)-3-(9-carboxymethyl-4-oxo-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazin-2-yl)acrylate, 19 ml of concentrated hydrochloric acid and 78 ml of acetic acid is heated at reflux for 48 hours. The reaction mixture is filtered and the solid is washed with 2×20 ml of distilled water and then with 2×10 ml of acetone and finally dried under vacuum (1 mm Hg; 0.13 kPa) at about 60° C. 0.94 g of (E)-3-(9-carboxymethyl-4-oxo-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazin-2-yl)acrylic acid is obtained in the form of a beige solid melting above 260° C. [Analysis: C18H13N3O5, 0.89 HCl, 0.91 H2O, % calculated C: 61.54, H: 3.73, N: 11.96, O: 22.77, % found C: 61.8, H: 3.4, N: 11.9].

reactant | ethyl (E)-3-(9-carboxymethyl-4-oxo-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazin-2-yl)acrylate | 1.45 g | C(=O)(O)CC=1C=2CC3=C(NC(C=4N3C=C(N4)/C=C/C(=O)OCC)=O)C2C=CC1 | C20H17N3O5
reactant | hydrochloric acid | 19 ml | Cl | ClH
solvent | acetic acid | 78 ml | C(C)(=O)O | C2H4O2
product | (E)-3-(9-carboxymethyl-4-oxo-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazin-2-yl)acrylic acid | 0.94 g | C(=O)(O)CC=1C=2CC3=C(NC(C=4N3C=C(N4)/C=C/C(=O)O)=O)C2C=CC1 | C18H13N3O5
